US07034039B2
6-Acetyl-3-(aminomethyl)-2-isobutyl-4-phenyl-1(2H)-isoquinolinone hydrochloride
Tert-butyl(6-acetyl-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate (0.10 g, 0.22 mmol) was dissolved in ethyl acetate (4 mL) and a solution (1 mL) of 4N hydrogen chloride in ethyl acetate was added thereto. The mixture was stirred at room temperature for 17 h. The reaction mixture was concentrated under reduced pressure and the residue was precipitated from ethyl acetate-diisopropyl ether (1:10) to give the title compound (0.084 g, 98%) as a pale-yellow powder.

reactant | Tert-butyl(6-acetyl-2-isobutyl-1-oxo-4-phenyl-1,2-dihydro-3-isoquinolinyl)methylcarbamate | 0.22 mmol, 0.10 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C(C)=O)=O)CC(C)C)=O | C27H32N2O4
reactant | hydrogen chloride | 4N, 1 mL | Cl | ClH
solvent | ethyl acetate | 4 mL | C(C)(=O)OCC | C4H8O2
product | 6-Acetyl-3-(aminomethyl)-2-isobutyl-4-phenyl-1(2H)-isoquinolinone hydrochloride | 0.084 g, 98% | Cl.C(C)(=O)C=1C=C2C(=C(N(C(C2=CC1)=O)CC(C)C)CN)C1=CC=CC=C1 | InChI=1S/C22H24N2O2.ClH/c1-14(2)13-24-20(12-23)21(16-7-5-4-6-8-16)19-11-17(15(3)25)9-10-18(19)22(24)26;/h4-11,14H,12-13,23H2,1-3H3;1H
